US08012956B2
To a solution of 3-fluoro-4-methoxybenzoic acid (400 mg, 2.4 mmol) and triethylamine (560 μl, 3.5 mmol) in tetrahydrofuran (10 mL) cooled to 0° C. was added isobutylchloroformate (320 μl, 2.4 mmol), and the mixture was stirred at 0° C. for 1 hour. The solution was warmed to room temperature and was saturated with ammonia gas, then stirred for 15 hours at room temperature. The mixture was diluted with ethyl acetate, then washed with 20% aqueous citric acid, saturated aqueous sodium bicarbonate, and brine, then dried over anhydrous sodium sulfate. Filtration and concentration afforded 280 mg, 1.7 mmol (70%) of 3-fluoro-4-(methyloxy)benzamide. MS (EI) for C8H8FNO2: 170 (MH+).

reactant | 3-fluoro-4-methoxybenzoic acid | 2.4 mmol, 400 mg | FC=1C=C(C(=O)O)C=CC1OC | C8H7FO3
reactant | triethylamine | 3.5 mmol, 560 μl | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 2.4 mmol, 320 μl | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-fluoro-4-(methyloxy)benzamide | 1.7 mmol, 280 mg, 70% | FC=1C=C(C(=O)N)C=CC1OC | C8H8FNO2
